US07932270B2
To a mixture of 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinic acid (110 mg, 0.30 mmol), (R)-tert-butyl 3-(2-(aminomethyl)-5-oxopyrrolidin-1-yl)propylcarbamate (125 mg, 0.46 mmol), HOBT (107 mg, 0.46 mmol), and HBTU (174 mg, 0.46 mg) in RB flask was added DMF and the mixture was stirred at r.t. for 1 h. LC/MS indicated the reaction was complete and the mixture was filtered and purified on RP-HPLC using a mixture of acetonitrile and water to give (R)-tert-butyl 3-(2-((6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamido)methyl)-5-oxopyrrolidin-1-yl)propylcarbamate (72 mg, 39%). LRMS (M+H+) m/z 615.2.

reactant | 6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinic acid | 0.30 mmol, 110 mg | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)O)C=C1)NCCC1=CC(=CC=C1)F | C21H16FN3O2
reactant | (R)-tert-butyl 3-(2-(aminomethyl)-5-oxopyrrolidin-1-yl)propylcarbamate | 0.46 mmol, 125 mg | NC[C@@H]1N(C(CC1)=O)CCCNC(OC(C)(C)C)=O | C13H25N3O3
reactant | HOBT | 0.46 mmol, 107 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 174 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 3-(2-((6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamido)methyl)-5-oxopyrrolidin-1-yl)propylcarbamate | 72 mg, 39% | C(#N)C1=C(C=CC=C1)C1=NC(=C(C(=O)NC[C@@H]2N(C(CC2)=O)CCCNC(OC(C)(C)C)=O)C=C1)NCCC1=CC(=CC=C1)F | C34H39FN6O4
